### PR TITLE
feature: Reason about impure computations using Hoare logic

### PR DESCRIPTION
**Pull request by lthms**
See the commit message for more information

------------------------

This is a draft PR, feedback is welcome, although everything can change very quickly.

**TODO:**

- [x] Prove [hoare] is a monad
- [x] Prove the equivalence between the FreeSpec respectfulness and Hoare pre/post condition
- [x] Document at length

**Not in this PR:**

- Remove `respectful_run` and `respectful_impure`; for now, they stay the primary reasoning principles FreeSpec users will interact with.

### CODE REVIEW

**Comment by lthms** [comment]
I think this PR is ready for a first round of review!

File: core/theories/Core/Hoare.v [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+ * You should have received a copy of the GNU General Public License
+ * along with this program. If not, see <http://www.gnu.org/licenses/>.
+ *)
+
+From Prelude Require Import All.
+From FreeSpec Require Import Impure Contract Morphism Tactics.
+
+(** If we consider the monad form by the set of sets of predicates, that is *)
+
+Definition predicat (a : Type) : Type := a -> Prop.
```
Comment (yurug) [inline core/theories/Core/Hoare.v]: s/predicat/predicate

File: core/theories/Core/Hoare.v [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+(** whose [bind] and [pure] functions is defined as follows *)
+
+Definition predicat_bind {α β} (p : predicat α) (f : α -> predicat β)
+  : predicat β :=
+  fun r => exists (x : α), p x /\ (f x) r.
+
+Definition predicat_pure {α} (x : α) : predicat α := eq x.
+
+(** Then, given [f := fun α e => fun x => True] the morphism from the interface
+    type [i] to [predicate] such that [f α e] is a predicate always satisfied,
```
Comment (yurug) [inline core/theories/Core/Hoare.v]:
```suggestion
    type [i] to [predicate] such that [f α e] is a predicate which is always satisfied,
```

File: core/theories/Core/Hoare.v [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+    [morphism_lift f p] is a predicate which allows for reasoning about any
+    potential output of [p] (that is, considering any implementer for [i]).
+
+    The [hoare] monad is another interesting candidate, and we demonstrate here
```
Comment (yurug) [inline core/theories/Core/Hoare.v]: "candidate" for what?

File: core/theories/Core/Hoare.v [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+    that we can easily provide a morphism from [impure] to [hoare], to the
+    extent that we provide a contract to generate the [pre] and [post] condition
+    of the hoare monad.
+
+    We define the [hoare_of_contract] morphism parameterized by a contract [c]
+    to project primitives of an interface to the [hoare] monad. This morphism
+    use the obligations of [c] to define the pre and post condition of the
```
Comment (yurug) [inline core/theories/Core/Hoare.v]:
```suggestion
    use the obligations of [c] to define the precondition and the postcondition of the
```

File: core/theories/Core/Hoare.v [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+    resulting [hoare] term. *)
```
Comment (yurug) [inline core/theories/Core/Hoare.v]:
```suggestion
    resulting [hoare] monadic term. *)
```

File: core/theories/Core/Hoare.v [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+  : ix ~> hoare Ω :=
+  fun α (e : ix α) =>
+    mk_hoare (fun ω => gen_caller_obligation c ω e)
+             (fun ω x ω' =>
+                gen_callee_obligation c ω e x
+                /\ ω' = gen_witness_update c ω e x).
+
+Definition hoare_of_impure `{MayProvide ix i} {Ω} (c : contract i Ω)
+  : impure ix ~> hoare Ω :=
+  morphism_lift (hoare_of_contract c).
```
Comment (yurug) [inline core/theories/Core/Hoare.v:66]: Cool :-)

File: core/theories/Core/Hoare.v [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+
+Arguments hoare_of_impure {ix i H Ω} (c) {α} _.
+
+(** Then, we demonstrate that, considering [hp] the (hoare) monad computed by
```
Comment (yurug) [inline core/theories/Core/Hoare.v]:
```suggestion
(** Then, we demonstrate that, considering [hp] the (hoare) monad computed
```

File: core/theories/Core/Hoare.v [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+    thanks to [hoare_of_contract] and [morphism_lift], and an impure computation
+    [p]
+
+      - [respectful_impure_equivalence]: If a witness state [ω] satisfies the
+        pre condition of [hp], then [p] is respectful wrt. [c] in accordance to
+        [ω] (see [respectful_impure]).
+      - [respectful_run_equivlance]: Similarly, if a tuple [(ω, x, ω')]
```
Comment (yurug) [inline core/theories/Core/Hoare.v]:
```suggestion
      - [respectful_run_equivalence]: Similarly, if a tuple [(ω, x, ω')]
```

File: core/theories/Core/Hoare.v [hunk 9]
```diff
@@ -0,0 +1,135 @@
...
+        satisfies the post condition [hp], then there exists a respectful run
+        from [ω] to compute [x] and [ω'] (see [respectful_run]). *)
+
+Lemma respectful_impure_equivlance  `{MayProvide ix i} {α Ω}
```
Comment (yurug) [inline core/theories/Core/Hoare.v]: equivlance? Is it a pun?

File: core/theories/Core/Hoare/Monad.v [hunk 10]
```diff
@@ -0,0 +1,421 @@
...
+ * This program is distributed in the hope that it will be useful,
+ * but WITHOUT ANY WARRANTY; without even the implied warranty of
+ * MERCHANTABILITY or FITNESS FOR A PARTICULAR PURPOSE.  See the
+ * GNU General Public License for more details.
+ *
+ * You should have received a copy of the GNU General Public License
+ * along with this program. If not, see <http://www.gnu.org/licenses/>.
+ *)
+
+Lemma iff_p_p (p : Prop) : (p <-> p) <-> True.
```
Comment (yurug) [inline core/theories/Core/Hoare/Monad.v:53]: Should be moved elsewhere.

File: core/theories/Core/Hoare/Monad.v [hunk 11]
```diff
@@ -0,0 +1,421 @@
...
+
```
Comment (yurug) [inline core/theories/Core/Hoare/Monad.v:54]: This newline is troubling.

File: core/theories/Core/Hoare/Monad.v [hunk 12]
```diff
@@ -0,0 +1,421 @@
...
+Proof.
+  split.
+  + intros H hp hq.
+    apply H.
+    now split.
+  + intros H [hp hq].
+    now apply H.
+Qed.
+
+Lemma test a (x y : a) (p : a -> Prop) (H : p x) (equ : x = y) : p y.
```
Comment (yurug) [inline core/theories/Core/Hoare/Monad.v]: This looks like trailing code.

File: core/theories/Core/Hoare/Monad.v [hunk 13]
```diff
@@ -0,0 +1,421 @@
...
+Ltac angry_intros :=
+  let H := fresh "H" in
+  intros H; angry_destruct H.
+
+Ltac angry_exists :=
+  repeat (eexists; eauto).
+
+From Coq Require Import Equivalence Setoid Morphisms.
+From Prelude Require Import All.
+
```
Comment (yurug) [inline core/theories/Core/Hoare/Monad.v]: The real stuff seems to start here. The prologue should be moved elsewhere IMHO.

File: core/theories/Core/Hoare/Monad.v [hunk 14]
```diff
@@ -0,0 +1,421 @@
...
+#[program]
+Instance post_Proper : Proper ('equal ==> eq ==> eq ==> eq ==> iff) (@post Σ α).
+
+Next Obligation.
+  add_morphism_tactic.
+  intros h1 h2 equ s x s'.
+  apply equ.
+Qed.
+
+Definition hoare_pure {Σ α} (x : α) : hoare Σ α :=
```
Comment (yurug) [inline core/theories/Core/Hoare/Monad.v]: Please highlight that sequence of definitions: these are the key definitions we want to read first. Everything else is a consequence of these, right?

File: core/theories/Core/Morphism.v [hunk 15]
```diff
@@ -0,0 +1,84 @@
...
+ *
+ * You should have received a copy of the GNU General Public License
+ * along with this program. If not, see <http://www.gnu.org/licenses/>.
+ *)
+
+From Prelude Require Import All.
+From FreeSpec Require Import Impure Contract Tactics.
+From FreeSpec Require Export Hoare.Monad.
+
+(** In _Dijkstra Monads for Free_, Ahman et al. explore the idea to “reify”
```
Comment (yurug) [inline core/theories/Core/Morphism.v]:
```suggestion
(** In _Dijkstra Monads for Free_, Ahman et al. explore the idea of “reifying”
```

File: core/theories/Core/Morphism.v [hunk 16]
```diff
@@ -0,0 +1,84 @@
...
+    computations encoded in an “effectful” computation into a “specification”
+    monad, more suitable for reasoning.
+
+    From a high-level perspective, a reification function from a [m] to [w] is a
```
Comment (yurug) [inline core/theories/Core/Morphism.v]: You should say what are `m` and `w` here. Otherwise, there is no much sense to grab here.

File: core/theories/Core/Morphism.v [hunk 17]
```diff
@@ -0,0 +1,84 @@
...
+    morphism to project terms of [m a] (for any [a]) to terms of [w a]. *)
+
+Definition second_order_morphism (m : Type -> Type) (w : Type -> Type) :=
+  forall (α : Type), m α -> w α.
+
+Infix "~>" := second_order_morphism (at level 80, no associativity) : type_scope.
+
+(** Interestingly, FreeSpec provides since the very start such a function:
```
Comment (yurug) [inline core/theories/Core/Morphism.v]:
```suggestion
(** Interestingly, FreeSpec provides since the very start an example of such function:
```

File: core/theories/Core/Morphism.v [hunk 18]
```diff
@@ -0,0 +1,84 @@
...
+    [run_impure]. Indeed, what [run_impure] actually does is reifying a
+    computation encoded in the [impure] monad to the [state] monad, which is a
+    pure, computable value as far as Coq is concerned. *)
+
+Definition run_impure_reify {i} : impure i ~> state (semantics i) :=
+  fun _ p sem => (fun x => (interp_result x, interp_next x)) $ run_impure sem p.
+
+(** Event more interesting: the definition of [impure] allows us to consider a
```
Comment (yurug) [inline core/theories/Core/Morphism.v]:
```suggestion
(** Even more interesting: the definition of [impure] allows us to consider a
```

File: core/theories/Core/Morphism.v [hunk 19]
```diff
@@ -0,0 +1,84 @@
...
+    [w]. *)
+
+Definition morphism_lift `{Monad w} {i} (s : i ~> w) : impure i ~> w :=
+  fix rec (α : Type) (p : impure i α) :=
+    match p with
+    | local x => pure x
+    | request_then e f => bind (s _ e) (fun x => rec α (f x))
+    end.
+
+(** This allows for neat trick.
```
Comment (yurug) [inline core/theories/Core/Morphism.v]:
```suggestion
(** This allows for neat tricks.
```

File: core/theories/Core/Morphism.v [hunk 20]
```diff
@@ -0,0 +1,84 @@
...
+    replace (run_impure_reify α (request_then e f) sem)
+      with (run_impure_reify α (f (interp_result $ run_effect sem e))
+                             (interp_next $ run_effect sem e)); [| reflexivity].
+    replace (run_impure_reify' α (request_then e f) sem)
+      with (run_impure_reify' α (f (interp_result $ run_effect sem e))
+                             (interp_next $ run_effect sem e)); [| reflexivity].
+    apply H0.
+Qed.
+
+(** But we can also consider other monads, more suitable for reasoning about
```
Comment (yurug) [inline core/theories/Core/Morphism.v:84]: Put a forward pointer to the Hoare monad stuff.

File: core/theories/dune [hunk 21]
```diff
@@ -1,12 +1,5 @@
...
   (name FreeSpec)
-  (package freespec-core)
-  (modules Core
-           Core.Interface
-           Core.Impure
-           Core.Semantics
-           Core.Component
-           Core.Contract
-           Core.Tactics))
+  (package freespec-core))
```
Comment (yurug) [inline core/theories/dune:3]: Splendid!

**Review by yurug — COMMENTED** [review]
Great work @lthms!

File: core/theories/Core/Hoare/Monad.v (hunk 13 above)
Comment (lthms) [reply core/theories/Core/Hoare/Monad.v]: I guess you are right, but where?

Should I move it in some kind of `chore.v` file or something?

File: core/theories/Core/Hoare.v (hunk 9 above)
Comment (lthms) [reply core/theories/Core/Hoare.v]: I wish :p it’s a copy/paste pun I guess.

**Comment by lthms** [comment]
I think I have addressed your remarks. In particular, I have reorganized the `Hoare/Monad.v` file in order to provide a clearer structure. We could probably improve it a bit further by commenting it more before merging.

**Comment by lthms** [comment]
I believe we can merge this, and probably #48 too. What do you think?

**Comment by yurug** [comment]
Do it!

Le mer. 29 avr. 2020 à 19:38, Thomas Letan <notifications@github.com> a
écrit :
